US04410539
A solution of 1-acetyl-6-bromomethylindole-2-carboxylic acid methyl ester (3.1 g.) in toluene (25 ml.) was added dropwise with stirring to a solution of 1-trimethylsilylimidazole (5.60 g.) in toluene (25 ml.) at 80° C. The mixture was stirred at 80° for 2 hours and then evaporated. Water was added and the mixture was extracted several times with ethyl acetate. The combined extracts were washed with water, dried (Na2SO4) and evaporated to give an oil which was dissolved in a concentrated solution of ammonia in ethanol (40 ml.). The solution was allowed to stand at room temperature for 2.5 hours and then evaporated and the residue was chromatographed on silica gel. Elution with chloroform gave a solid which was crystallized from ethyl acetate to give 6-(1-imidazolylmethyl)indole-2-carboxylic acid methyl ester (1.49 g.), m.p. 204°-205° C.

reactant | 1-acetyl-6-bromomethylindole-2-carboxylic acid methyl ester | 3.1 g | COC(=O)C=1N(C2=CC(=CC=C2C1)CBr)C(C)=O | C13H12BrNO3
reactant | 1-trimethylsilylimidazole | 5.60 g | C[Si](N1C=NC=C1)(C)C | C6H12N2Si
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | ammonia | N | H3N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 6-(1-imidazolylmethyl)indole-2-carboxylic acid methyl ester | 1.49 g | COC(=O)C=1NC2=CC(=CC=C2C1)CC=1NC=CN1 | C14H13N3O2
